US07112610B2
(S)-2-((R)-2-Methyl-butyl)-succinic acid 4-tert-butyl ester.
(3S,5R)-5-Methyl-3-[1-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-yl)-methanoyl]-heptanoic acid tert-butyl ester (7.26 g, 0.018 mol) in H2O (53 mL) and THF (176 mL) at 0° C. was added a premixed solution of LiOH (37 mL of a 0.8 M solution) and H2O2 (10.57 mL of a 30% solution) and the solution warmed to room temperature. After 2 hours sodium bisulfite (7 g), sodium sulfite (13 g), and water (60 mL) was added and the two layers were separated and the aqueous layer extracted with ether. The combined organic phases were concentrated to an oil that was dissolved in heptane (200 mL). The resultant solid was filtered off and the filtrate dried (MgSO4) and concentrated to afford the titled compound as an oil (4.4 g) that was used without further purification. MS, m/z (relative intensity): 243 [100%]; 1H NMR (400 MHz; CDCl3) δ2.88 (m, 1H), 2.59 (m, 1H), 2.36 (m, 1H), 1.65 (m, 1H), 1.41 (s, 9H), 1.20 (m, 4H), 0.84 (m, 6H).

reactant | (3S,5R)-5-Methyl-3-[1-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-yl)-methanoyl]-heptanoic acid tert-butyl ester | 0.018 mol, 7.26 g | C(C)(C)(C)OC(C[C@H](C[C@@H](CC)C)C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C23H33NO5
reactant | LiOH | [Li+].[OH-]
reactant | H2O2 | OO | H2O2
reactant | sodium bisulfite | 7 g | S([O-])(O)=O.[Na+]
reactant | sodium sulfite | 13 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | 53 mL | O | H2O
solvent | THF | 176 mL | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | (S)-2-((R)-2-Methyl-butyl)-succinic acid 4-tert-butyl ester | 4.4 g | C(C)(C)(C)OC(C[C@@H](C(=O)O)C[C@@H](CC)C)=O | C13H24O4
